US07884207B2
1-Acetyl-4-{[2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}piperidin-4-ol (1.80 g, 4.68 mmol) was converted into 1-({1-acetyl-4-[2-(methylsulfonyl)ethoxy]piperidin-4-yl}methyl)-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinoline according to the method described in Part A of Example 13. Purification by flash chromatography (silica gel, eluted with 10% methanol/dichloromethane) yielded 1-({1-acetyl-4-[2-(methylsulfonyl)ethoxy]piperidin-4-yl}methyl)-2-(ethoxyethyl)-1H-imidazo[4,5-c]quinoline (0.30 g, 13%) and recovered starting material, 1-acetyl-4-{[2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}piperidin-4-ol (1.20 g).

reactant | 1-Acetyl-4-{[2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}piperidin-4-ol | 4.68 mmol, 1.80 g | C(C)(=O)N1CCC(CC1)(O)CN1C(=NC=2C=NC=3C=CC=CC3C21)COCC | C21H26N4O3
reactant | 1-({1-acetyl-4-[2-(methylsulfonyl)ethoxy]piperidin-4-yl}methyl)-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinoline | C(C)(=O)N1CCC(CC1)(OCCS(=O)(=O)C)CN1C(=NC=2C=NC=3C=CC=CC3C21)COCC | C24H32N4O5S
product | 1-({1-acetyl-4-[2-(methylsulfonyl)ethoxy]piperidin-4-yl}methyl)-2-(ethoxyethyl)-1H-imidazo[4,5-c]quinoline | 0.30 g, 13% | C(C)(=O)N1CCC(CC1)(OCCS(=O)(=O)C)CN1C(=NC=2C=NC=3C=CC=CC3C21)CCOCC | C25H34N4O5S
